US05360809
4-Fluoro-3-nitrobenzonitrile.
The largest amount of silica gel that still allowed the resulting slurry to be stirred magnetically at 0° C., was added to conc. sulfuric acid (125 ml). To this mixture 4-fluorobenzonitrile (12.5 g, 103 mmol) was added followed by potassium nitrate (10.4 g, 103 mmol). The reaction mixture was stirred at 0° C. for 20 minutes. The sulfuric acid was removed from the product by passing the mixture through a short column of silica gel and the product was washed out with methylene chloride. The solvent was evaporated to leave the product as a crystalline solid. Yield 6.0 g, mp 86°-88° C.

reactant | sulfuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-fluorobenzonitrile | 103 mmol, 12.5 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium nitrate | 103 mmol, 10.4 g | [N+](=O)([O-])[O-].[K+]
product | 4-Fluoro-3-nitrobenzonitrile | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
